US08278482B2
1-(3-(Dichloroamino)-3-methylbutyl)-1-methylpyrrolidinium chloride
A solution of 1-(3-amino-3-methylbutyl)-1-methylpyrrolidinium chloride hydrochloride (1.07 g, 4.4 mmol) in a mixture of methanol (15 mL) and water (10 mL) was cooled in an ice bath for 15 min. t-BuOCl (1.56 mL, 3 equiv, 13.2 mmol) was added in one portion via syringe to the colorless solution to give a deep yellow solution. The reaction mixture was stirred for 30 min at 0° C., then concentrated under reduced pressure to yield a colorless oil. This oil was dissolved into water and purified via reverse phase chromatography on a Shimadzu Prep-LC utilizing water/acetonitrile and 0.05% acetic acid as modifier. Fractions were collected monitoring UV absorbance at 215 nm. Fractions were pooled and lyophilized to give a pale yellow foam, (0.94 g, 77.6%). 1H NMR (D2O, 400 MHz): δ 1.44 (s, 6H), 2.17 (m, 4H), 2.17-2.32 (m, 2H), 3.06 (s, 3 H), 3.45-3.60 (m, 6H). LRMS (ESI+) for C10H21Cl2N2+ (239.1); Found: 239, 241 (M+, M2H+).

reactant | 1-(3-amino-3-methylbutyl)-1-methylpyrrolidinium chloride hydrochloride | 4.4 mmol, 1.07 g | Cl.[Cl-].NC(CC[N+]1(CCCC1)C)(C)C
reactant | t-BuOCl | 13.2 mmol, 1.56 mL, 3 equiv | C(C)(C)(C)OCl | C4H9ClO
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 1-(3-(Dichloroamino)-3-methylbutyl)-1-methylpyrrolidinium chloride | [Cl-].ClN(C(CC[N+]1(CCCC1)C)(C)C)Cl | InChI=1S/C10H21Cl2N2.ClH/c1-10(2,13(11)12)6-9-14(3)7-4-5-8-14;/h4-9H2,1-3H3;1H/q+1;/p-1
